US08604219B2
First step is chlorinating cyclohexanone to form 2-chlorocyclohexanone. The obtained 2-chlorocylohexanone is then reacted with N-ethyl aniline to form 2-(N-ethyl anilino)cyclohexanone which is further heated to reflux with simultaneous water removal to complete the cyclization which results in formation of 9-ethyl-tetrahydrocarbazole. Excess of N-ethyl aniline is then removed by treatment with conc. hydrochloric acid and water wash. The obtained organic layer is then washed to make acid free and concentrated to get 9-ethyl tetrahydrocarbazole as a viscous liquid. The crude product is taken for next step without further treatment. N-ethyl aniline is regenerated from aqueous hydrochloride solution by basification.

reactant | 2-chlorocylohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | N-ethyl aniline | C(C)NC1=CC=CC=C1 | C8H11N
product | 2-(N-ethyl anilino)cyclohexanone | C(C)N(C1=CC=CC=C1)C1C(CCCC1)=O | C14H19NO
